US04167638
A mixture of 48 g (0.2 mole) of 2-chloro-6-methoxy-8-nitroquinoline, 42.78 g (0.3 mole) of 4-chlorobenzyl alcohol, 27.6 g (0.2 mole) of anhydrous potassium carbonate, and 200 ml N,N-dimethyl formamide was heated under nitrogen at ca. 155°-160° for 18 hr. The mixture was cooled, diluted with ice water, stirred, collected, and washed with water. The crude solid was leached with a little 95% ethanol at 70° and then recrystallized from that solvent. A 84% yield of 2-(4-chlorobenzyloxy)-6-methoxy-8-nitroquinoline resulted; mp 129.5°-133.5°.

reactant | 2-chloro-6-methoxy-8-nitroquinoline | 0.2 mole, 48 g | ClC1=NC2=C(C=C(C=C2C=C1)OC)[N+](=O)[O-] | C10H7ClN2O3
reactant | 4-chlorobenzyl alcohol | 0.3 mole, 42.78 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | potassium carbonate | 0.2 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobenzyloxy)-6-methoxy-8-nitroquinoline | 84% yield | ClC1=CC=C(COC2=NC3=C(C=C(C=C3C=C2)OC)[N+](=O)[O-])C=C1 | C17H13ClN2O4
